US07662825B2
a) 2,3-Dichloro-4-fluorobenzenesulphonyl chloride
Chlorosulphonic acid (12.1 mL) was added dropwise to a solution of 2,3-dichloro-4-fluorobenzene (5.0 g) in dichloromethane (12 mL) at −40° C. The solution was allowed to slowly warm to room temperature and was stirred for 3 days. The solution was poured onto crushed ice/water, extracted into dichloromethane and concentrated under reduced pressure. Purified by silica gel chromatography eluting with dichloromethane/iso-hexane mixtures. Yield 4.2 g

reactant | Chlorosulphonic acid | 12.1 mL | ClS(=O)(=O)O | ClHO3S
reactant | 2,3-dichloro-4-fluorobenzene | 5.0 g | ClC1=CC=CC(=C1Cl)F | C6H3Cl2F
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | 2,3-Dichloro-4-fluorobenzenesulphonyl chloride | ClC1=C(C=CC(=C1Cl)F)S(=O)(=O)Cl | C6H2Cl3FO2S
